US04863942
3.0 g of Raney nickel are added to a solution of 15.9 g (34.1 mmol) of 3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylnitrobenzene in 160 ml of tetrahydrofuran and the whole is hydrogenated at room temperature. The catalyst is filtered off and washed with tetrahydrofuran. The filtrate is concentrated to dryness by evaporation under reduced pressure. 3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylaniline having a melting point of 108°-109° is obtained (ether/petroleum ether).

reactant | 3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylnitrobenzene | 34.1 mmol, 15.9 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C(=CC2Br)C)[N+](=O)[O-])C=C1)CCC)O | C21H24BrNO6
catalyst | Raney nickel | 3.0 g | [Ni] | Ni
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylaniline | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(N)C(=CC2Br)C)C=C1)CCC)O | C21H26BrNO4
